US06410581B1
4.6 g (45 mmol) of acetic anhydride are added dropwise to a solution of 7.3 g (37 mmol) of 4-hydroxy-3-ethyl-biphenyl and 3.2 g (40 mmol) of pyridine in 60 ml of chloroform, and the mixture is boiled under reflux for 3 hours. The solution is allowed to cool and then washed with water and dilute hydrochloric acid and the organic phase is dried and concentrated. 8.0 g (yield: 90% of theory) of 4-acetoxy-3-ethyl-biphenyl are obtained as a very clear oil of log p=3.92 (pH=2.3).

reactant | acetic anhydride | 45 mmol, 4.6 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-hydroxy-3-ethyl-biphenyl | 37 mmol, 7.3 g | OC1=C(C=C(C=C1)C1=CC=CC=C1)CC | C14H14O
reactant | pyridine | 40 mmol, 3.2 g | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-acetoxy-3-ethyl-biphenyl | 8.0 g, yield: 90% | C(C)(=O)OC1=C(C=C(C=C1)C1=CC=CC=C1)CC | C16H16O2
